US04766127
A solution of 165 mg of oxalyl chloride in 20 ml of methylene chloride was cooled to -50° C., 203 mg of dimethylsulfoxide added dropwise, and the mixture stirred for 5 minutes. A solution of 321 mg of 2-[(3-pyridyl)hydroxymethyl]-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene in 10 ml of methylene chloride was then added dropwise and the mixture stirred at -50° C. for 15 minutes. Triethylamine (506 mg) was added at -50° C. and the mixture stirred for 5 minutes, then allowed to warm to room temperature. The solution was washed with water, dried over sodium sulfate and the solvent removed under reduced pressure to give 300 mg of 2-(3-pyridylcarbonyl)-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene as an oil.

reactant | oxalyl chloride | 165 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 203 mg | CS(=O)C | C2H6OS
reactant | 2-[(3-pyridyl)hydroxymethyl]-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene | 321 mg | N1=CC(=CC=C1)C(C1=CC2=CC=C(C=C2C=C1)C1(OCCO1)C)O | C20H19NO3
reactant | Triethylamine | 506 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-pyridylcarbonyl)-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene | 300 mg | N1=CC(=CC=C1)C(=O)C1=CC2=CC=C(C=C2C=C1)C1(OCCO1)C | C20H17NO3
